US07435815B2
N,N-Diethyl-2-[(4-isopropyl-benzenesulfonyl)-p-tolyl-amino]-acetamide
prepared by reaction of 2-bromo-N,N-diethylacetamide with p-toluidine and 4-isopropyl-benzenesulfonyl chloride

reactant | 2-bromo-N,N-diethylacetamide | BrCC(=O)N(CC)CC | C6H12BrNO
reactant | p-toluidine | NC1=CC=C(C=C1)C | C7H9N
reactant | 4-isopropyl-benzenesulfonyl chloride | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
product | N,N-Diethyl-2-[(4-isopropyl-benzenesulfonyl)-p-tolyl-amino]-acetamide | C(C)N(C(CN(C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C(C)C)=O)CC | C22H30N2O3S
